US09035059B2
N-(4-Fluorophenyl)-2-phenyl-2,3-dihydro-1H-isoindole-5-sulfonamide
Trifluoroacetic acid (0.5 mL) was added to a solution of N-(2,4-dimethoxybenzyl)-N-(4-fluorophenyl)-2-phenyl-2,3-dihydro-1H-isoindole-5-sulfonamide obtained (135 mg) in chloroform (4.5 mL) while cooling in ice, and the mixture was stirred at the same temperature for 2 hr. Saturated aqueous sodium hydrogen carbonate solution was added thereto and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate and then the desiccant was filtered off, followed by concentration under reduced pressure. The resulting residue was purified by NH silica gel column chromatography (chloroform only→chloroform:methanol=19:1). To the resulting crude compound were added ethyl acetate, diethyl ether and hexane, and the mixture was powdered and then collected by filtration to afford the title compound as a light gray powder (74 mg).

reactant | Trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-(2,4-dimethoxybenzyl)-N-(4-fluorophenyl)-2-phenyl-2,3-dihydro-1H-isoindole-5-sulfonamide | COC1=C(CN(S(=O)(=O)C=2C=C3CN(CC3=CC2)C2=CC=CC=C2)C2=CC=C(C=C2)F)C=CC(=C1)OC | C29H27FN2O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 4.5 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(4-Fluorophenyl)-2-phenyl-2,3-dihydro-1H-isoindole-5-sulfonamide | 74 mg | FC1=CC=C(C=C1)NS(=O)(=O)C=1C=C2CN(CC2=CC1)C1=CC=CC=C1 | C20H17FN2O2S
